US06194409B1
1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid (1-amino-isoquinolin-6-ylmethyl)-amide (97f)
A mixture of 1-(2-(R)-acetylamino-3-biphenyl-4y1-propionyl)-pyrrolidin-2-(S)-carboxylic acid (0.120 g), 6-aminomethyl-isoquinolin-1-ylamine (0.058 g), N-methyl morpholine (0.11 mL) and 0.100 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 4.5 mL of dry N,N-dimethyl formamide was stirred for 3 h at ambient temperature. The mixture was concentrated and the remaining residue was purified by silica chromatography (dichloro-methane/methanol 8/2) to give 0.120 g (70%) of the title compound as a light yellow solid. (+)- APCI-MS: 536 (MH+).

reactant | 1-(2-(R)-acetylamino-3-biphenyl-4y1-propionyl)-pyrrolidin-2-(S)-carboxylic acid | 0.120 g | C(C)(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C22H24N2O4
reactant | 6-aminomethyl-isoquinolin-1-ylamine | 0.058 g | NCC=1C=C2C=CN=C(C2=CC1)N | C10H11N3
reactant | N-methyl morpholine | 0.11 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.100 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 4.5 mL | CN(C=O)C | C3H7NO
product | 1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid (1-amino-isoquinolin-6-ylmethyl)-amide | 0.120 g, 70% | NC1=NC=CC2=CC(=CC=C12)CNC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C)=O)=O | C32H33N5O3
